US07429565B2
[2-Ethyl-4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-but-2-enyl]-phosphonic acid
A solution of 6-(3-bromomethyl-pent-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one (230 mg, 0.5 mmol) in trimethylphosphite (1.5 mL, 12.75 mmol) was heated to 100° C. for 4 hours. The reaction was worked up by removal of excess trimethylphosphite under reduced pressure. The residue was dissolved in acetonitrile (1 mL) and TMSBr (646 μL, 5.0 mmol) and 2,6-lutidine (580 μL, 5.0 mmol) were added at 0° C. The reaction solution was allowed to warm to room temperature and stirred for 4 hours. The reaction was cooled to 0° C. and quenched with addition of MeOH. The reaction mixture was dried under reduced pressure and the residue was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to provide 77 mg (58%) of the product. 1H NMR (300 MHz, CD3OD) δ 1.08 (t, 3H), 2.16 (s, 3H), 2.43 (m, 2H), 2.48 (d, 2H, J=22 Hz), 3.46 (t, 2H, J=6 Hz), 3.79 (s, 3H), 5.25 (s, 2H), 5.38 (q, 1H, J=7 Hz) ppm.; 31P (121.4 MHz, CD3OD) δ 25.65 ppm.; MS (m/z) 355 [M−H]−, 357 [M+H]+.

reactant | 6-(3-bromomethyl-pent-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 0.5 mmol, 230 mg | BrCC(=CCC1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)OC)CC | C21H31BrO4Si
reactant | trimethylphosphite | 12.75 mmol, 1.5 mL | COP(OC)OC | C3H9O3P
reactant | TMSBr | 5.0 mmol, 646 μL | C[Si](C)(C)Br | C3H9BrSi
reactant | 2,6-lutidine | 5.0 mmol, 580 μL | N1=C(C=CC=C1C)C | C7H9N
product | [2-Ethyl-4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-but-2-enyl]-phosphonic acid | 77 mg, 58% | C(C)C(CP(O)(O)=O)=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O | C16H21O7P
